US05808062
6-[1,1'-Biphenyl]-3-yl-4-hydroxy-3-[(2-phenylethyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 3'-phenylacetophenone (2.00 g, 10.21 mmol), trimethylsilyltriflate (2.36 mL, 12.24 mmol), triethylamine (2.84 mL, 20.40 mmol), methylene chloride (26 mL), and diethyl ester of [(2-phenylethyl)thio]propanedioic acid (1.00 g, 3.37 mmol). m.p. 93°-94° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.79 (t, 2 H), 3.01 (t, 2 H), 6.92 (s, 1 H), 7.21 (m, 5 H), 7.42 (t, 1 H), 7.52 (t, 2 H), 7.64 (t, 1 H), 7.75 (d, 2 H), 7.82 (t, 2 H), 8.02 (s, 1 H).

reactant | 3'-phenylacetophenone | 10.21 mmol, 2.00 g | C1(=CC=CC=C1)C=1C=C(C=CC1)C(C)=O | C14H12O
reactant | trimethylsilyltriflate | 12.24 mmol, 2.36 mL | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | triethylamine | 20.40 mmol, 2.84 mL | C(C)N(CC)CC | C6H15N
reactant | [(2-phenylethyl)thio]propanedioic acid | 3.37 mmol, 1.00 g | C1(=CC=CC=C1)CCSC(C(=O)O)C(=O)O | C11H12O4S
solvent | methylene chloride | 26 mL | C(Cl)Cl | CH2Cl2
product | 6-[1,1'-Biphenyl]-3-yl-4-hydroxy-3-[(2-phenylethyl)thio]-2H-pyran-2-one | C1(=CC(=CC=C1)C1=CC(=C(C(O1)=O)SCCC1=CC=CC=C1)O)C1=CC=CC=C1 | C25H20O3S
